US07446127B2
Step A: Preparation of tert-butyl-7-[(2-(4-bromophenyl)-5-methyl-1,3-oxazol-4-yl)methoxy]chromane-3-carboxylate
To a stirred suspension of tert-butyl 7-hydroxychromane-3-carboxylate (1.1 g, 4.4 mmol) and potassium carbonate (1.1 g, 8 mmol), 2-(4-bromophenyl)-4-(chloromethyl)-5-methyl-1,3-oxazole (1.14 g, 4 mmol) was added and the reaction mixture was stirred at 60° C. for overnight. After the completion of the reaction, water (40 ml) was added and the precipitated product was extracted with ethylacetate (60 ml). The organic layer was washed with 50 ml of water twice and dried. The dried solution was evaporated to give the product as brown solid (1.55 g, 77.4%).

reactant | tert-butyl 7-hydroxychromane-3-carboxylate | 4.4 mmol, 1.1 g | OC1=CC=C2CC(COC2=C1)C(=O)OC(C)(C)C | C14H18O4
reactant | potassium carbonate | 8 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-bromophenyl)-4-(chloromethyl)-5-methyl-1,3-oxazole | 4 mmol, 1.14 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCl)C | C11H9BrClNO
solvent | water | 40 ml | O | H2O
product | tert-butyl-7-[(2-(4-bromophenyl)-5-methyl-1,3-oxazol-4-yl)methoxy]chromane-3-carboxylate | 1.55 g, 77.4% | C(C)(C)(C)OC(=O)C1COC2=CC(=CC=C2C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)Br | C25H26BrNO5
